US05646173
A solution of 2.1 g of (RS)-2-(2-oxoethyl)-5,6-difluoro-1-indanone and 80 mg of p-toluenesulfonic acid in 70 ml of anhydrous toluene was heated on a water separator. A solution of 3.0 g of (R)-1-amino-2-propanol in 20 ml of anhydrous toluene was added dropwise to the boiling solution over a period of 5 minutes. Subsequently, the mixture was boiled for an additional 45 minutes, during which the solvent was reduced to a volume of 20 ml. The cooled reaction mixture was purified by column chromatography on silica gel (diethyl ether/hexane 7:3). 1.13 g (45%) of (R)-1-(6,7-difluoro-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol were obtained as a brown solid which was used without further recrystallization in the next reaction.

reactant | (RS)-2-(2-oxoethyl)-5,6-difluoro-1-indanone | 2.1 g | O=CCC1C(C2=CC(=C(C=C2C1)F)F)=O | C11H8F2O2
reactant | p-toluenesulfonic acid | 80 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | (R)-1-amino-2-propanol | 3.0 g | NC[C@@H](C)O | C3H9NO
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(6,7-difluoro-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol | 1.13 g, 45% | FC=1C=C2CC3=C(N(C=C3)C[C@@H](C)O)C2=CC1F | C14H13F2NO
